US05849735
5,6-Dihydropyrido[2,3-b][1,4]benzoxazepine
A mixture of 2.8 g of pyrido[2,3-b][1,4]benzoxazepin-6(5H)-one, 10 ml of tetrahydrofuran and 3 ml of 10M borane-dimethylsulfide in tetrahydrofuran is stirred at room temperature overnight and then refluxed for 3 hours. To the mixture is added dropwise under argon, 5 ml of methanol. The solvent is removed under vacuum and methanol added. The solvent is removed under vacuum and 12 ml of 2N NaOH added to the residue. The mixture is refluxed for 2 hours and extracted with ethyl acetate. The extract is washed with 2N citric acid, H2O, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filtrate concentrated to dryness under vacuum. The residue is chromatographed on a column (2"×18") of silica gel (32° g) with hexane-ethyl acetate (1:1) as solvent to give 0.78 g of crystals, m.p. 172°-174° C.

reactant | pyrido[2,3-b][1,4]benzoxazepin-6(5H)-one | 2.8 g | N1=CC=CC2=C1OC1=C(C(N2)=O)C=CC=C1 | C12H8N2O2
reactant | borane dimethylsulfide | 10M, 3 ml | B.CSC
reactant | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5,6-Dihydropyrido[2,3-b][1,4]benzoxazepine | 0.78 g | N1=CC=CC2=C1OC1=C(CN2)C=CC=C1 | C12H10N2O
